US09359338B2
Step 3: Synthesis of indolin-2-one
Stir the mixture of methyl 2-(2-aminophenyl)acetate (4.8 g, 29.1 mmol) and potassium carbonate (8.0 g, 58.2 mmol) in DMF (15 mL) at room temperature overnight. TLC (PE:EtOAc=2:1) shows the reaction is complete. Concentrate the reaction mixture under reduced pressure to give the crude product. Purify by chromatography (silica gel, EtOAc:PE=1:2) to afford the title compound (4.0 g, 95%). MS: (M+1): 134.2.

reactant | methyl 2-(2-aminophenyl)acetate | 29.1 mmol, 4.8 g | NC1=C(C=CC=C1)CC(=O)OC | C9H11NO2
reactant | potassium carbonate | 58.2 mmol, 8.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | indolin-2-one | 4.0 g, 95% | N1C(CC2=CC=CC=C12)=O | C8H7NO
